US07812045B2
Step 2) Synthesis of 3-methyl-5-nitro-1H-indazole
A solution of 1-(2-hydroxy-5-nitrophenyl)ethanone (0.54 g, 3 mmol) in anhydrous hydrazine (2 ml) was radiated with microwaves while being stirred at 150° C. for 5 min. Water (0.5 ml) was added at 0° C. to terminate the reaction. The reaction solution was diluted with ethyl acetate (10 ml) and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated using vacuum evaporation. Recrystallization of the residue in dichloromethane produced the title compound (Yield 80%).

reactant | 1-(2-hydroxy-5-nitrophenyl)ethanone | 3 mmol, 0.54 g | OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C8H7NO4
reactant | Water | 0.5 ml | O | H2O
reactant | hydrazine | 2 ml | NN | H4N2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-methyl-5-nitro-1H-indazole | Yield 80% | CC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H7N3O2
